US05439908
4-Chloro-4,4-difluoro-N-pyrid-2-yl-butyric acid amide (Table 1, compound no 1.1).
4.0 g of 4-chloro-4,4-difluoro-butyric acid chloride are added dropwise at 0° over a period of half an hour to a solution of 2.13 g of 2-aminopyridine and 4.47 g of pyridine in 50 ml of toluene. The reaction mixture is stirred for 16 hours at room temperature, diluted with 150 ml of diethyl ether, washed in succession with saturated NaHCO3 solution and saturated NaCl solution, dried over MgSO4, and concentrated by evaporation. The residue is recrystallised from toluene/hexane to give the title compound which melts at 64°-65°.

reactant | 4-chloro-4,4-difluoro-butyric acid chloride | 4.0 g | ClC(CCC(=O)Cl)(F)F | C4H4Cl2F2O
reactant | 2-aminopyridine | 2.13 g | NC1=NC=CC=C1 | C5H6N2
reactant | pyridine | 4.47 g | N1=CC=CC=C1 | C5H5N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 4-Chloro-4,4-difluoro-N-pyrid-2-yl-butyric acid amide | ClC(CCC(=O)NC1=NC=CC=C1)(F)F | C9H9ClF2N2O
